US07265246B2
Combine 1-bromo-3,5-difluorobenzene (0.863 mL, 7.50 mmol) and phenylboronic acid (1.22 g, 10.00 mmol) and subject to conditions described in Method G to yield 1.3 g of 3,5-difluorobiphenyl.

reactant | 1-bromo-3,5-difluorobenzene | 7.50 mmol, 0.863 mL | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | phenylboronic acid | 10.00 mmol, 1.22 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 3,5-difluorobiphenyl | 1.3 g | FC=1C=C(C=C(C1)F)C1=CC=CC=C1 | C12H8F2
